US04797399
A solution of 4-fluorobenzoyl chloride (761 mg) in dioxane (3 ml) was added dropwise to a mixture of 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride (872 mg), 1N-NaOH (5.3 ml), dioxane (30 ml) and water (5 ml) at 5° C. The resulting mixture was stirred for 30 minutes and concentrated under reduced pressure. The residue obtained was filtered, washed with water and ethyl acetate, and recrystallized from methanol to give 5-chloro-3-{[4-(4-fluorobenzamido)-1-piperazinyl]carbonylmethyl}-2-benzothiazolinone (0.61 g).

reactant | 4-fluorobenzoyl chloride | 761 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 5-chloro-3-[(4-amino-1-piperazinyl)carbonylmethyl]-2-benzothiazolinone hydrochloride | 872 mg | Cl.ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)N)C1
reactant | NaOH | 5.3 ml | [OH-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 5-chloro-3-{[4-(4-fluorobenzamido)-1-piperazinyl]carbonylmethyl}-2-benzothiazolinone | 0.61 g | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)N2CCN(CC2)NC(C2=CC=C(C=C2)F)=O)C1 | C20H18ClFN4O3S
